US06407093B1
1 -Methyl-4-(3,4-dihydro-2H-benzothiopyran-4-yl)homopiperazine
A 25 ml 3-necked flask equipped with a condenser and magnetic stirring bar and under a nitrogen atmosphere was charged with a solution of N-methylhomopiperazine (0.35 ml; 2.81 mmol) in DMAC (10 ml). Potassium iodide (0.1 g) was added followed by the addition of 4-chloro-3,4-dihydro-2H-benzothiopyran (0.20 g; 1.2 mmol). This solution was then heated at 60° C. overnight, cooled, and partitioned between water and ethyl acetate which was washed with brine and dried with magnesium sulphate. Filtration and evaporation of solvent gave a yellow oil which was distilled by kugelrohr to give the title compound as an oil (0.31 g), bp (air bath temperature) 130-140° C. at 100 mtorr; essentially homogeneous by tlc (silica gel, 89:10:1 CH2Cl2:CH3OH:NH4OH), Rf 0.46; 1H nmr δ2.37 (s, 3H), 3.82-3.87 (m, 1H), 6.98-7.34 (m, 3H), 7.69-7.71 (d, 1H).

reactant | N-methylhomopiperazine | 2.81 mmol, 0.35 ml | CN1CCNCCC1 | C6H14N2
reactant | Potassium iodide | 0.1 g | [I-].[K+]
reactant | 4-chloro-3,4-dihydro-2H-benzothiopyran | 1.2 mmol, 0.20 g | ClC1CCSC2=C1C=CC=C2 | C9H9ClS
solvent | DMAC | 10 ml | CC(=O)N(C)C | C4H9NO
product | 1 -Methyl-4-(3,4-dihydro-2H-benzothiopyran-4-yl)homopiperazine | 0.31 g | CN1CCN(CCC1)C1CCSC2=C1C=CC=C2 | C15H22N2S
